US07399759B2
4-Chloro-2-cyanopyridine
4-Chloropyridine N-oxide (7.53 g, 58.1 mmol) and N,N-dimethylcarbamoyl chloride (9.36 g, 87.0 mmol) were added to acetonitrile (200 ml), and trimethylsilyl cyanide (11.5 g, 116 mmol) was added dropwise thereto. The mixture was stirred at room temperature for 18 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (200 g) column chromatography. The fractions eluted with n-hexane-ethyl acetate (3:1, v/v) were collected, concentrated to give the titled compound (8.05 g, 99%) as a pale yellow oil.

reactant | 4-Chloropyridine N-oxide | 58.1 mmol, 7.53 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
reactant | N,N-dimethylcarbamoyl chloride | 87.0 mmol, 9.36 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | trimethylsilyl cyanide | 116 mmol, 11.5 g | C[Si](C)(C)C#N | C4H9NSi
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-cyanopyridine | 8.05 g, 99% | ClC1=CC(=NC=C1)C#N | C6H3ClN2
